US05071857
A solution of potassium cyanide (25 g) in water (133 ml) and of 4-picolyl chloride hydrochloride (30 g) in reagent grade methanol (268 ml) was heated under reflux for 2 hours, concentrated under vacuum, diluted with water (500 ml) and extracted with CHCl3 (4×100 ml). Distillation of the extract afforded a single fraction of 4-pyridylacetonitrile (8.026 g), b.p. 84° C. at 0.15 mm Hg. This was dissolved in dry dimethylformamide (130 ml) and stirred with sodium hydride (3.4 g, 50% w/v dispersion in oil) for 2.5 hours. Ethyl iodide (5.7 ml, 1.93 g/ml) was added slowly with cooling and stirring. After 18 hours, excess solvent was evaporated off, the residue diluted with water (150 ml) and extracted with diethyl ether (3×300 ml). Flash chromatography (Merck Art 9385, CHCl3, 4.5×15 cm column) of the extract afforded a mixture of 2-(4-pyridyl)butyronitrile and 2-ethyl-2-(4-pyridyl)-butyronitrile (9.85 g). Acrylonitrile (4.46 ml) in t-butanol (5.5 ml) was added to a solution of the above mixture in t-butanol (18 ml) and "Triton B" (0.32 ml) with cooling and stirring. ("Triton" is a Registered Trade Mark in the UK and many other countries). After 2 hours, excess solvent was evaporated off, the residue diluted with water (150 ml) and extracted with CHCl3 (2×50 ml). Flash chromatography of the extract (CHCl3, 4.5×15 cm column) afforded a mixture of 2-ethyl-2-(4-pyridyl) butyronitrile and 4-cyano-4-(4-pyridyl)hexanonitrile (8 g). This mixture was heated under reflux with glacial acetic acid (15 ml) and conc. sulfuric acid (3 ml) during 0.5 hours, then with addition of 5N hydrochloric acid (15 ml) for a further 3 hours, cooled, diluted with water, adjusted to pH 7-7.5 with sodium hydrogen carbonate and extracted with methylene chloride. Elution from a column (4.5×30 cm) of silica gel (Merck, Kieselgel 6) with CHCl3 afforded the title compound, 2.95 g; (20% yield based on 4-pyridylacetonitrile) which crystallized from toluene, m.p. 138°-139° C. (corrected); mass spectrum, isobutane chemical ionization [MH+ ] at m/z=219: IR (KC1) cm-1 2990 (CH aromatic phenyl), 2800 (NH), 1720, 1784 (C=0 imide), 1605 (C=C, aromatic phenyl); 1H-NMR (CDCl3), δ0.87 (t,3H,CH3CH2), 1.80-2.82 (m, 6H, CH3CH2, H(4), H(5)), 7.15 (d, 2H, aromatic H(3), H(5), J=4.7 Hz), 8.55 (d, 2H, aromatic H(2), H(6), J=4.7 Hz), 9.13 (br.s., 1H, NH). Anal. C12H14N2O2, 218.25) Calcd: C,66.03; H,6.47; N,12.84, Found: C,66.00, H,6.58; N,12.87%.

reactant | potassium cyanide | 25 g | [C-]#N.[K+]
reactant | 4-picolyl chloride hydrochloride | 30 g | Cl.N1=CC=C(C=C1)CCl
reactant | methanol | 268 ml | CO | CH4O
solvent | water | 133 ml | O | H2O
product | 4-pyridylacetonitrile | 8.026 g | N1=CC=C(C=C1)CC#N | C7H6N2
